US06306181B1
a) Preparation of 1-methyl-5-pyridin-3-ylmethyl-1H-indol-4-ol
500 cm3 of 2-methyl-2-propanol, 75 g of pyridine-3-carboxaldehyde and 100 g of 1-methyl-1,5,6,7-tetrahydroindol-4-one were introduced into a 1-liter reactor equipped with a mechanical stirrer and surmounted by a condenser and a thermometer. After 10 minutes of stirring, 157 g of potassium tert-butoxide were added in small portions over 15 minutes. Following addition, the temperature was held at 75° C. for 1 hour. The reaction mixture was allowed to return to room temperature and then was neutralized (pH=6) with 20% hydrochloric acid. It was poured into 2 kg of ice-water. The precipitate obtained was filtered off with suction and washed with diisopropyl ether and with petroleum ether. It was dried over potash under vacuum at 30° C. This gave 120 g of 1-methyl-5-pyridin-3-ylmethyl-1H-indol-4-ol with a yield of 74%.

reactant | pyridine-3-carboxaldehyde | 75 g | N1=CC(=CC=C1)C=O | C6H5NO
reactant | 1-methyl-1,5,6,7-tetrahydroindol-4-one | 100 g | CN1C=CC=2C(CCCC12)=O | C9H11NO
reactant | potassium tert-butoxide | 157 g | CC(C)([O-])C.[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | 2-methyl-2-propanol | 500 cm3 | CC(C)(C)O | C4H10O
product | 1-methyl-5-pyridin-3-ylmethyl-1H-indol-4-ol | yield of 74% | CN1C=CC=2C(=C(C=CC12)CC=1C=NC=CC1)O | C15H14N2O
